US05780483
b) Preparation of 2-nitro-5-methyl-6-cyanophenol
2-Nitro-5-methyl-6-bromophenol (100 mg, 0.433 mmol) was dissolved in dimethyl formamide (2 mL) followed by the addition of triethylamine (0.175 g, 1.73 mmol). The addition of a catalytic amount dimethylamino pyridine was then made, followed by addition of copper (I) cyanide (155 mg, 1.73 mmol). The mixture was allowed to stir at 80° C. for 4 hours. The solvent was evaporated and chromatography of the resulting solid on silica gel (2%MeOH/CH2Cl2) gave the desired product (70 mg, 91%). 1H NMR (CD3COCD3): d 8.30 (d,1 H), 7.15 (d,1H), 2.61 (s, 3H).

reactant | 2-Nitro-5-methyl-6-bromophenol | 0.433 mmol, 100 mg | [N+](=O)([O-])C1=C(C(=C(C=C1)C)Br)O | C7H6BrNO3
reactant | triethylamine | 1.73 mmol, 0.175 g | C(C)N(CC)CC | C6H15N
reactant | dimethylamino pyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | copper (I) cyanide | 1.73 mmol, 155 mg | [Cu]C#N
solvent | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-nitro-5-methyl-6-cyanophenol | 70 mg, 91% | [N+](=O)([O-])C1=C(C(=C(C=C1)C)C#N)O | C8H6N2O3
